US06288100B1
4-(6-Benzoyl-2-propyl-benzoimidazol-1-ylmethyl) benzoic acid
A solution of potassium hydroxide (1.0 g in 10 mL of water) was added to a solution of 4-(6-benzoyl-2-propyl-benzoimidazol-1-ylmethyl)-benzoic acid methyl ester (1.0 g) in methanol (25 mL). The mixture was heated at reflux for a period of 3 hours. The reaction mixture was cooled to ambient temperature. The methanol was evaporated under vacuum. The residue was diluted with water (30 mL), then extracted with ethyl acetate (24 mL). The aqueous phase was acidified with 1N HCl. The precipitated solid was collected and air dried to afford the tide compound (0.6 g, 63% yield) as a white solid m.p. 295-296° C. Anal. Calcd. for C25H22N2O3: C, 75.36; H, 5.57; N, 7.03. Found: C, 75.03; H, 5.65; N, 6.86. Mass spectrum (PBEI; M+) mlz 398. 1H-NMR (DMSO-d6; 400 MHz): δ13.0 (br s, 1H), 7.91 (d, 2H), 7.82 (s, 1H), 7.72 (d, 1H), 7.58-7.64 (m, 4H), 7.47 (t, 2H), 7.18 (d, 2H), 5.67 (s, 2H), 2.88 (t, 2H), 1.78 (m, 2H), and 0.94 ppm (t, 3H).

reactant | potassium hydroxide | 10 mL, 1.0 g | [OH-].[K+]
reactant | 4-(6-benzoyl-2-propyl-benzoimidazol-1-ylmethyl)-benzoic acid methyl ester | 1.0 g | COC(C1=CC=C(C=C1)CN1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=O)CCC)=O | C26H24N2O3
solvent | methanol | 25 mL | CO | CH4O
product | 4-(6-Benzoyl-2-propyl-benzoimidazol-1-ylmethyl) benzoic acid | 0.6 g, 63% yield | C(C1=CC=CC=C1)(=O)C=1C=CC2=C(N(C(=N2)CCC)CC2=CC=C(C(=O)O)C=C2)C1 | C25H22N2O3
